US04960766
A mixture of benzhydryl 7β-[2-(2-cyclopenten-1-yloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate 1-oxide (syn isomer, 7 g) and N-methylpyrazole (17.5 ml) was stirred at ambient temperature for 4.5 hours. The reaction mixture was poured into ethyl acetate (500 ml). Precipitates were collected by filtration, washed with ethyl acetate and diisopropyl ether to give benzhydryl 7β-[2-(2-cyclopenten-1-yloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate 1-oxide iodide (syn isomer, 5.4 g).

reactant | benzhydryl 7β-[2-(2-cyclopenten-1-yloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate 1-oxide | 7 g | C1(C=CCC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2=O)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C32H28IN5O7S2
reactant | N-methylpyrazole | 17.5 ml | CN1N=CC=C1 | C4H6N2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7β-[2-(2-cyclopenten-1-yloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate 1-oxide iodide | 5.4 g | [I-].C1(C=CCC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2=O)C[N+]=2N(C=CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | InChI=1S/C36H33N7O7S2.HI/c1-41-17-10-18-42(41)19-25-21-52(48)34-29(39-32(45)28(40-50-26-15-8-9-16-26)27-20-51-36(38-27)37-22-44)33(46)43(34)30(25)35(47)49-31(23-11-4-2-5-12-23)24-13-6-3-7-14-24;/h2-8,10-15,17-18,20,22,26,29,31,34H,9,16,19,21H2,1H3,(H-,37,38,39,44,45);1H/t26?,29-,34-,52?;/m1./s1
